US08217064B2
Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (0.4 g, 3.4 mmol) was dissolved in anhydrous DMF (30 mL), NaH (60% wt. in paraffin oil, 0.163 g, 6.8 mmol) was added at 0° C. The reaction mixture was stirred for 30 min at room temperature and 1-iodo-2-(2-iodoethoxy)ethane (1.2 g, 3.7 mmol) was added drop wise at 0° C. The reaction mixture was stirred an additional 1 h at 0° C. and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), and dried over MgSO4. The volatiles were removed under reduced pressure and the residue was purified by flash column chromatography to yield ethyl 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylate (400 mg).

reactant | Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 3.4 mmol, 0.4 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C19H15ClF6O3
reactant | NaH | 6.8 mmol, 0.163 g | [H-].[Na+]
reactant | 1-iodo-2-(2-iodoethoxy)ethane | 3.7 mmol, 1.2 g | ICCOCCI | C4H8I2O
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ethyl 4-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)tetrahydro-2H-pyran-4-carboxylate | 400 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCOCC1)C(=O)OCC | C23H21ClF6O4
